US08022062B2
6-Quinolinecarbonitrile:
Dissolve 6-quinolinecarboxamide (1.5 g, 8.95 mmol) in DCM (50 mL), add triethylamine (2.7 g, 26.8 mmol) and cool the reaction mixture to 0° C. Add trifluoroacetic acid anhydride (2.4 g, 11.16 mmol) to the reaction mixture and stir for 10 min at 0° C. Quench the reaction mixture with water (20 mL) and separate the organic layer. Extract aqueous layer with DCM (2×15 mL). Combine the organic extracts and dry over anhydrous Na2SO4. Evaporate the solvent to obtain the desired intermediate as a white solid (1.0 g, 73%). GC-MS m/z: 154 (M+).

reactant | 6-quinolinecarboxamide | 8.95 mmol, 1.5 g | N1=CC=CC2=CC(=CC=C12)C(=O)N | C10H8N2O
reactant | triethylamine | 26.8 mmol, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 11.16 mmol, 2.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-Quinolinecarbonitrile | 1.0 g, 73% | N1=CC=CC2=CC(=CC=C12)C#N | C10H6N2
